US09238639B2
B) Methyl 6-chloro-3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate
To a mixture of methyl 3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate 7-oxide (245.4 mg) and toluene (7.9 mL) was added phosphoryl chloride (0.367 mL). The mixture was stirred at 80° C. for 3 h. After cooling, the mixture was concentrated. The residue was neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (147 mg).

reactant | methyl 3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate 7-oxide | 245.4 mg | C(C)OC(COC1=C(SC2=[N+](C=CC=C21)[O-])C(=O)OC)=O | C13H13NO6S
reactant | phosphoryl chloride | 0.367 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 7.9 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 6-chloro-3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate | 147 mg | ClC1=CC=C2C(=N1)SC(=C2OCC(=O)OCC)C(=O)OC | C13H12ClNO5S
